US06689922B1
2-Hydroxymethyl-4-{2-[4-(6-hydroxy-6-methylheptyl)phenyl]ethyl}phenol
In a manner similar to Example 9(a), by reacting 150 mg (0.42 mmol) of 2-hydroxymethyl-4-{2-[4-(6-hydroxy-6-methylheptyl)phenyl]vinyl}phenol with 42 mg of 10% palladium/carbon, crystals (m=65 mg; Y=43%) are obtained. m.p.=110-1° C.

reactant | 2-hydroxymethyl-4-{2-[4-(6-hydroxy-6-methylheptyl)phenyl]vinyl}phenol | 0.42 mmol, 150 mg | OCC1=C(C=CC(=C1)C=CC1=CC=C(C=C1)CCCCCC(C)(C)O)O | C23H30O3
catalyst | palladium/carbon | 42 mg | [Pd] | Pd
product | 2-Hydroxymethyl-4-{2-[4-(6-hydroxy-6-methylheptyl)phenyl]ethyl}phenol | OCC1=C(C=CC(=C1)CCC1=CC=C(C=C1)CCCCCC(C)(C)O)O | C23H32O3
